US04450166
Using the procedure of Example 2, ethyl 7-chloro-4-hydroxy-3-quinoline-carboxylate and 2-amino-thiazoline were reacted at reflux for 48 hours and the product was crystallized from acetic acid to obtain N-(4,5-dihydro-thiazol-2-yl)-7-chloro-4-hydroxy-3-quinoline-carboxamide hydrochloride melting at >260° C.

reactant | ethyl 7-chloro-4-hydroxy-3-quinoline-carboxylate | ClC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C12H10ClNO3
reactant | 2-amino-thiazoline | NC=1SCCN1 | C3H6N2S
product | N-(4,5-dihydro-thiazol-2-yl)-7-chloro-4-hydroxy-3-quinoline-carboxamide hydrochloride | Cl.S1C(=NCC1)NC(=O)C=1C=NC2=CC(=CC=C2C1O)Cl | InChI=1S/C13H10ClN3O2S.ClH/c14-7-1-2-8-10(5-7)16-6-9(11(8)18)12(19)17-13-15-3-4-20-13;/h1-2,5-6H,3-4H2,(H,16,18)(H,15,17,19);1H
